US04863958
A solution of 3-methyl-4-hydroxybenzofuran (5.0 gm, 34.7 mmoles), acetic anhydride (50 mL) and triethylamine (25 mL) in tetrahydrofuran (150 mL) was stirred at room temperature overnight. The volatiles were removed in vacuo and the residue was purified by chromatography on silica gel. Elution with 15% ethylacetate in hexane yielded 3-methyl-4-acetoxybenzofuran.

reactant | 3-methyl-4-hydroxybenzofuran | 34.7 mmoles, 5.0 gm | CC1=COC2=C1C(=CC=C2)O | C9H8O2
reactant | acetic anhydride | 50 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 25 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 3-methyl-4-acetoxybenzofuran | CC1=COC2=C1C(=CC=C2)OC(C)=O | C11H10O3
